US08076374B2
Step B. 2-Allyl-2-(4-bromo-phenyl)-pent-4-en-1-ol
A solution of crude 2-allyl-2-(4-bromo-phenyl)-pent-4-enoic acid ethyl ester (2.64 g) in CH2Cl2 (40 mL) at 0° C. is treated with diisobutylaluminum hydride (1.0 M toluene, 17.5 mL) dropwise for 8 min, warmed to room temperature, and stirred for 45 min. The reaction mixture is cooled to 0° C., quenched with 1M tartaric acid (25 mL), and stirred overnight. The organic layer is separated and the aqueous layer is extracted with CH2Cl2 (3×25 mL). The combined organic extracts are dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted with hexanes using a gradient of 0% EtOAc to 50% EtOAc to provide 1.319 g (56%-2 steps) of the title compound as a light yellow oil. 1H NMR (CDCl3): δ 7.47-7.43 (m, 2H), 7.23-7.19 (m, 2H), 5.59 (ddt, J=17.1, 10.2, 6.7 Hz, 2H), 5.09-5.01 (m, 4H), 3.76 (d, J=6.8 Hz, 2H), 2.48 (dd, J=14.1, 6.8 Hz), 2.42 (dd, J=13.6, 7.2 Hz, 2H), 1.29 (t, J=6.1 Hz).

reactant | 2-allyl-2-(4-bromo-phenyl)-pent-4-enoic acid ethyl ester | 2.64 g | C(C)OC(C(CC=C)(C1=CC=C(C=C1)Br)CC=C)=O | C16H19BrO2
reactant | diisobutylaluminum hydride | 1.0 M, 17.5 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-Allyl-2-(4-bromo-phenyl)-pent-4-en-1-ol | C(C=C)C(CO)(CC=C)C1=CC=C(C=C1)Br | C14H17BrO
